US04067991
The mono-trimethylsilyl derivative of PGF2α 1,15-lactone (above) was dissolved in 6 ml of methylene chloride and added in one portion to the rapidly stirred Collins reagent. The ice bath was removed and the reaction mixture was allowed to stir for 20 min. longer. The mixture was then poured onto a column containing 150 g of neutral silica. With the aid of a house-vacuum, the column was eluted into a 2-liter round bottom flask with 1000 ml of ethyl acetate. Removal of the solvent gave PGE2, 1,15-lactone, 11-trimethylsilyl ether.

reactant | PGF2α 1,15-lactone | CCCCC[C@H]1/C=C/[C@@H]2[C@@H](C/C=C\CCCC(=O)O1)[C@H](C[C@H]2O)O | C20H32O4
reactant | Collins reagent | O=[Cr](=O)=O.C1=NC=CC=C1.C2=NC=CC=C2
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | PGE2 | CCCCC[C@@H](/C=C/[C@H]1[C@@H](CC(=O)[C@@H]1C/C=C\CCCC(=O)O)O)O | C20H32O5
